US07947690B2
A mixture of 1-tert-butoxycarbonylpiperazine, 3-hydroxypropionic acid, 1-hydroxybenzotriazole (HOBt), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDCI), and DMF was stirred at ambient temperature for 24 hours to yield 3-(4-tert-butoxycarbonylpiperazin-1-yl)-3-oxopropan-1-ol, which was stirred together with 4M HCl-dioxane solution and MeOH at ambient temperature for 16 hours to yield 3-oxo-3-piperazin-1-ylpropan-1-ol hydrochloride.

reactant | 1-tert-butoxycarbonylpiperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 3-hydroxypropionic acid | OCCC(=O)O | C3H6O3
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(4-tert-butoxycarbonylpiperazin-1-yl)-3-oxopropan-1-ol | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CCO)=O | C12H22N2O4
